US06355648B1
5-(2′-thioxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)-1-methyl-pyrrole-2-carbonitrile
To a solution of 5-(2′-oxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)-1-methyl-pyrrole-2-carbonitrile (0.55 g, 1.8 mmol, 1 eq) in toluene (50 mL) was added Lawesson's reagent (0.47 g, 1.1 mmol, 0.65 eq) and the reaction was heated to 80° C. for 1 hour. The reaction was cooled to room temperature, poured into water (100 mL) and extracted with ethyl acetate (2×100 mL). The organic layers were combined, washed with brine (50 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by flash column chromatography on silica gel gave the product as a white solid (0.32 g, 55%). 1H NMR (d6-DMSO, 500 MHz) δ 1.36-1.99 (m, 10 H), 3.7(s,3 H),6.35 (d, 1 H, J=4.2 Hz), 7.05 (d, 1 H, J=4.2 Hz),7.16 (d, 1 H, J=7.9 Hz), 7.44 (dd, 1 H, J=1.6, 8.1 Hz), 7.83 (d, 1 H, J=1.6 Hz), 12.75 (s, 1 H). MS (ESI) [M−H]−=320. Anal. calcd. for C19H19N3S: C, 70.99; H, 5.96; N, 13.07. Found: C, 68.69; H, 5.36; N, 12.27.

reactant | 5-(2′-oxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)-1-methyl-pyrrole-2-carbonitrile | 1.8 mmol, 0.55 g, 1 eq | O=C1NC2=CC=C(C=C2C12CCCCC2)C2=CC=C(N2C)C#N | C19H19N3O
reactant | Lawesson's reagent | 1.1 mmol, 0.47 g, 0.65 eq | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | water | 100 mL | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2′-thioxospiro[cyclohexane-1,3′-[3H]indol]-5′-yl)-1-methyl-pyrrole-2-carbonitrile | 0.32 g, 55% | S=C1NC2=CC=C(C=C2C12CCCCC2)C2=CC=C(N2C)C#N | C19H19N3S
